US04166177
Preparation of 2,2-Dioxo-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine
To a solution of sulfamoyl chloride (13.8 g, 0.12 mole) in anhydrous methylene chloride (75 ml) is added a solution of 3-iodo-5-(1,1-dimethylethyl)salicylaldehyde (6 g., 0.02 mole) and triethylamine (12.1 g, 0.12 mole) in anhydrous methylene chloride (100 ml.) dropwise with stirring at 20° C. Upon completing the addition, the resulting reaction mixture is stirred at 20° C. for 3 days. Removal of the solvent in vacuo leaves a tacky residue which is partitioned between ether and 2 N hydrochloric acid. After separating the phases, the organic phase is washed with water and saturated bromine, dried over sodium sulfate and filtered. Evaporation of the filtrate leaves an oily residue (6 g.) which is chromatographed on silica gel (300 g.) with benzene. Elution with benzene (840 ml.) gives recovered 3-iodo-5-(1,1-dimethylethyl)salicylaldehyde (2.2 g., 37% recovery), m.p. 76°-78° C. Continued elution with benzene (500 ml.) provides an impure solid (2.4 g.) which is triturated with hexane (20 ml.) and filtered to afford the title compound as a pale yellow solid (1.0 g, 14%), m.p. 130°-134° C. Crystallization from hexane-benzene (9.1; viv) gives an analytical sample of 2,2-dioxo-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine, m.p. 135°-136° C.

reactant | sulfamoyl chloride | 0.12 mole, 13.8 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 3-iodo-5-(1,1-dimethylethyl)salicylaldehyde | 0.02 mole, 6 g | IC1=C(C(C=O)=CC(=C1)C(C)(C)C)O | C11H13IO2
reactant | triethylamine | 0.12 mole, 12.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Dioxo-6-(1,1-dimethylethyl)-8-iodo-1,2,3-benzoxathiazine | 1.0 g, 14% | O=S1(OC2=C(C=N1)C=C(C=C2I)C(C)(C)C)=O | C11H12INO3S
